US08138355B2
To a 100 ml three-necked flask were added 1.00 g (2.83=mol) of 4-bromo-5-iodophthalic anhydride synthesized in the above, 1.29 g (3.11 mmol) of 1,2-didodecylbenzene, and 4 ml of tetrachloroethane. Thereto was added 0.82 g (6.15 mmol) of aluminum chloride, followed by 3 hours of stirring at room temperature. Ice was added portionwise to the resulting reaction mixture to quench the reaction, followed by extraction with toluene. The extract was concentrated under reduced pressure to obtain 2.5 g of a viscous matter. To the viscous matter was added 8 ml of sulfuric acid, followed by 2 hours of stirring at 80° C. The resulting reaction mixture was cooled to room temperature and ice was added. The mixture was extracted with toluene and the organic phase was dried over sodium sulfate. Then, the phase was filtrated and concentrated under reduced pressure to obtain 678 mg of 2-bromo-3-iodo-6,7-didodecylanthraquinone (yield 35%).

reactant | 4-bromo-5-iodophthalic anhydride | 1.00 g | BrC=1C=C2C(C(=O)OC2=O)=CC1I | C8H2BrIO3
reactant | 1,2-didodecylbenzene | 3.11 mmol, 1.29 g | C(CCCCCCCCCCC)C1=C(C=CC=C1)CCCCCCCCCCCC | C30H54
reactant | tetrachloroethane | 4 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
reactant | aluminum chloride | 6.15 mmol, 0.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
product | 2-bromo-3-iodo-6,7-didodecylanthraquinone | 678 mg, yield 35% | BrC1=CC=2C(C3=CC(=C(C=C3C(C2C=C1I)=O)CCCCCCCCCCCC)CCCCCCCCCCCC)=O | C38H54BrIO2
